US05703188
To a 500 mL flask was added vinylbenzyl chloride (7.63 g, 0.050 mol), piperazine (8.61 g, 0.100 mol), and isopropanol (50 mL). The resulting solution was heated to 70° C. for 45 minutes and then cooled slowly to room temperature to form a slurry of crystalline material. The slurry was refrigerated for about three hours and then filtered. The solid piperazine hydrochloride salt was vacuum dried and then weighed (5.55 g) and discarded. The mother liquor was concentrated to about 25 mL on a rotary evaporator and ethyl acetate (50 mL) was added). The resulting mixture was refrigerated for about 10 minutes, after which a second crop of piperazine hydrochloride was filtered off and discarded. The mother liquor was then evaporated to dryness on a rotary evaporator to afford 10.135 g of crude 4-(piperazinylmethyl)styrene which was used without further purification to prepare N-(4-methylstyrene)-N'-(3-trimethylammonio-2-hydroxypropyl chloride)piperazine as follows.

reactant | vinylbenzyl chloride | 0.050 mol, 7.63 g | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
reactant | piperazine | 0.100 mol, 8.61 g | N1CCNCC1 | C4H10N2
reactant | isopropanol | 50 mL | C(C)(C)O | C3H8O
product | 4-(piperazinylmethyl)styrene | 10.135 g | N1(CCNCC1)CC1=CC=C(C=C)C=C1 | C13H18N2
